US08975282B2
N-(5-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (50 mg, 0.12 mmol) in THF (13 mL) was added Et3N (0.034 mL, 0.24 mmol). The suspension was cooled to 0° C., then a solution of cyclobutanecarbonyl chloride (28.5 mg, 0.24 mmol) in THF (3 mL) was added to the mixture slowly. The reaction was stirred at rt for 1.25 hours, then diluted with EtOAc (15 mL). The mixture was washed with water (15 mL×2), followed by washing with brine (15 mL), dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (v/v)=60/1) to give the title compound as a white solid (25 mg, 41%).

reactant | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.12 mmol, 50 mg | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
reactant | Et3N | 0.24 mmol, 0.034 mL | CCN(CC)CC | C6H15N
reactant | cyclobutanecarbonyl chloride | 0.24 mmol, 28.5 mg | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | THF | 13 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | N-(5-((2-(cyclobutanecarboxamido)pyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 25 mg, 41% | C1(CCC1)C(=O)NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C27H26N6O4
